US05847148
Preparation of 2-[[[(4,5-Dihydro-5-thioxo-1,3,4-thiadiazol-2-yl)amino]-carbonyl]amino]-4-methyl-N-(2-phenylethyl)-(S)-pentanamide.
Following the general procedure outlined in EXAMPLE 5, and making non-critical variations but starting with N-[[(4,5-dihydro-5-thioxo-1,3,4-thiadiazol-2-yl)amino]carbonyl]-L-leucine methyl ester (prepared according to the procedure described in EXAMPLE 1) and phenethylamine, the title compound is obtained (mp 215°-217° C., decomposition).

reactant | N-[[(4,5-dihydro-5-thioxo-1,3,4-thiadiazol-2-yl)amino]carbonyl]-L-leucine methyl ester | COC([C@@H](NC(=O)NC=1SC(NN1)=S)CC(C)C)=O | C10H16N4O3S2
reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
product | 2-[[[(4,5-Dihydro-5-thioxo-1,3,4-thiadiazol-2-yl)amino]-carbonyl]amino]-4-methyl-N-(2-phenylethyl)-(S)-pentanamide | S=C1NN=C(S1)NC(=O)N[C@H](C(=O)NCCC1=CC=CC=C1)CC(C)C | C17H23N5O2S2
